US07544803B2
2,2-Dimethyl-chroman-6-carboxylic acid (3-hydroxymethyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl)-amide.
This material was prepared analogous to the procedures described for Example 2, steps (a-b). 2,2-Dimethyl-chroman-6-carboxylic acid (90 mg, 0.4 mmol, Maybridge) and 7-amino-3-hydroxymethyl-3,4-dihydro-1H-quinolin-2-one (85 mg, 0.44 mmol, prepared according to the procedure described in WO03049702) provided the title compound as an off-white amorphous solid. MS (ESI, pos. ion) m/z: 381 (M+1).

reactant | 2,2-Dimethyl-chroman-6-carboxylic acid | 0.4 mmol, 90 mg | CC1(OC2=CC=C(C=C2CC1)C(=O)O)C | C12H14O3
reactant | 7-amino-3-hydroxymethyl-3,4-dihydro-1H-quinolin-2-one | NC1=CC=C2CC(C(NC2=C1)=O)CO | C10H12N2O2
product | 2,2-Dimethyl-chroman-6-carboxylic acid (3-hydroxymethyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl)-amide | OCC1C(NC2=CC(=CC=C2C1)NC(=O)C=1C=C2CCC(OC2=CC1)(C)C)=O | C22H24N2O4
